US08957074B2
A suspension of the 8-[6-(7-Cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridine-3-carbonyl]-3,8-diaza-bicyclo[3.2.1]octane-3-carboxylic acid benzyl ester (550 mg, 0.883 mmol) and 10% Pd/C (100 mg, 0.1 eq), in methanol (10 mL) was evacuated and then purged with N2 3 times and then backfilled with hydrogen under balloon pressure and stirred for 16 hr. The reaction mixture was then filtered through a pad of Celite and the filtrate concentrated to a colorless oil. To the oil was added ethyl acetate/heptane and the resulting precipitate triturated which gave 7-cyclopentyl-2-[5-(3,8-diaza-bicyclo[3.2.1]octane-8-carbonyl)-pyridin-2-ylamino]-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide as a white solid (260 mg, 0.532 mmol) in 60% yield. 1H NMR (400 MHz, MeOD) δ ppm 1.68-1.84 (m, 2H) 1.94-2.12 (m, 8H) 2.12-2.18 (m, 1H) 2.45-2.61 (m, 2H) 2.77 (br. s., 2H) 2.93-3.11 (m, 2H) 3.16 (s, 6H) 4.16 (br. s., 1H) 4.64 (br. s., 1H) 4.80 (t, J=8.84 Hz, 1H) 6.64 (s, 1H) 7.92 (dd, J=8.59, 2.53 Hz, 1H) 8.47-8.57 (m, 2H) 8.85 (s, 1H); MS m/z 489.9 (M+H)+.

reactant | 8-[6-(7-Cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridine-3-carbonyl]-3,8-diaza-bicyclo[3.2.1]octane-3-carboxylic acid benzyl ester | 0.883 mmol, 550 mg | C(C1=CC=CC=C1)OC(=O)N1CC2CCC(C1)N2C(=O)C=2C=NC(=CC2)NC=2N=CC1=C(N2)N(C(=C1)C(N(C)C)=O)C1CCCC1 | C34H38N8O4
catalyst | Pd/C | 100 mg, 0.1 eq | [Pd] | Pd
product | 7-cyclopentyl-2-[5-(3,8-diaza-bicyclo[3.2.1]octane-8-carbonyl)-pyridin-2-ylamino]-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 0.532 mmol, 260 mg, 60% yield | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)C(=O)N2C3CNCC2CC3)N1C1CCCC1)C | C26H32N8O2
